US06127360
Synthesis of 1-benzyl-4-(2-quinolylcarbonyl)piperazine hydrochloride
Thionyl chloride (6 ml) was added to a suspension of quinaldinic acid (3.463 g, 20 mmol) in chloroform (40 ml). After the resulting mixture was heated under reflux and stirring for 6 hours, the solvent was distilled off. The residue was dissolved in acetone (50 ml), followed by the addition of a solution of N-benzylpiperazine (10.576 g, 60 mmol) in acetone (50 ml). The thus-obtained mixture was stirred for 1 hour. A deposited precipitate was removed, and the solvent was distilled off. The residue was dissolved in ethyl ether. The resulting solution was washed with an aqueous solution of sodium chloride, and then dried over anhydrous magnesium sulfate. The solvent was distilled off, and the residue was dissolved in methanol, followed by the addition of concentrated hydrochloric acid (5 ml) for acidification. The solvent was distilled off and the thus-obtained residue was crystallized from a mixed solvent of ethanol and methanol, whereby 7.166 g of the title compound were obtained as white powder (yield: 97.5%).

reactant | Thionyl chloride | 6 ml | S(=O)(Cl)Cl | Cl2OS
reactant | quinaldinic acid | 20 mmol, 3.463 g | N1=C(CC(=O)O)C=CC2=CC=CC=C12 | C11H9NO2
reactant | N-benzylpiperazine | 60 mmol, 10.576 g | C(C1=CC=CC=C1)N1CCNCC1 | C11H16N2
solvent | chloroform | 40 ml | C(Cl)(Cl)Cl | CHCl3
solvent | acetone | 50 ml | CC(=O)C | C3H6O
product | 1-benzyl-4-(2-quinolylcarbonyl)piperazine hydrochloride | 7.166 g | Cl.C(C1=CC=CC=C1)N1CCN(CC1)C(=O)C1=NC2=CC=CC=C2C=C1 | InChI=1S/C21H21N3O.ClH/c25-21(20-11-10-18-8-4-5-9-19(18)22-20)24-14-12-23(13-15-24)16-17-6-2-1-3-7-17;/h1-11H,12-16H2;1H
